US07094907B2
2,3-bis[(2R, 5R)-2,5-diethyl-phospholan-1-yl)-benzo[b]thiophene
In analogy to Example 11, the cyclic sulfate derived from (3S,6S)-3,6-octanediol is reacted with 2,3-bisphosphinobenzo[b]thiophene to give the title compound in 48% yield.

reactant | (3S,6S)-3,6-octanediol | CC[C@@H](CC[C@H](CC)O)O | C8H18O2
reactant | 2,3-bisphosphinobenzo[b]thiophene | PC1=C(C2=C(S1)C=CC=C2)P | C8H8P2S
product | 2,3-bis[(2R, 5R)-2,5-diethyl-phospholan-1-yl)-benzo[b]thiophene | 48% yield | C(C)[C@H]1P([C@@H](CC1)CC)C1=C(C2=C(S1)C=CC=C2)P2[C@@H](CC[C@H]2CC)CC | C24H36P2S
